US06995175B2
A mixture of 43 mg of N-(4-amino-2-methyl-6-quinolyl)-2-amino-4,6-dichloro-5-methylsulfanylpyrimidine and 55 mg of 4,6-diamino-2-methylquinoline in 5 mL of ethanol is heated under reflux for about 3 hours, left at a temperature in the region of 20° C. for about 16 hours and then filtered. The filtrate is concentrated under reduced pressure (2.7 kPa) at a temperature in the region of 40° C., and then the residue obtained is purified by HPLC (column: C18 Waters, 5 M, 50×19 mm; eluent: elution gradient water-acetonitrile-TFA (0.07%) from 95-5 to 5-95 over 30 minutes). The fractions containing the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. to obtain 12 mg of N,N′-bis(4-amino-2-methyl-6-quinolyl)-2,4-diamino-6-chloro-5-methylsulfanyl-pyrimidine in the form of a beige colored solid.

reactant | N-(4-amino-2-methyl-6-quinolyl)-2-amino-4,6-dichloro-5-methylsulfanylpyrimidine | 43 mg | NC1=CC(=NC2=CC=C(C=C12)N1C(N=C(C(=C1Cl)SC)Cl)N)C | C15H15Cl2N5S
reactant | 4,6-diamino-2-methylquinoline | 55 mg | NC1=CC(=NC2=CC=C(C=C12)N)C | C10H11N3
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | N,N′-bis(4-amino-2-methyl-6-quinolyl)-2,4-diamino-6-chloro-5-methylsulfanyl-pyrimidine | 12 mg | NC1=CC(=NC2=CC=C(C=C12)N1C(N(C(C(=C1Cl)SC)N)C=1C=C2C(=CC(=NC2=CC1)C)N)N)C | C25H27ClN8S
